US09353081B2
(R)-6-(8-Amino-5,6,7,8-tetrahydroisoquinolin-4-yl)-1-methyl-3,4-dihydroquinolin-2(1H)-one
In analogy to the procedure described for the preparation of intermediate A-2 [E], Suzuki reaction of (+)-(R)-4-bromo-5,6,7,8-tetrahydroisoquinolin-8-amine (intermediate B-3b) with 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) gave the title compound as light yellow amorphous solid. MS: 308.2 (M+H)+.

reactant | (+)-(R)-4-bromo-5,6,7,8-tetrahydroisoquinolin-8-amine | BrC1=CN=CC=2[C@@H](CCCC12)N | C9H11BrN2
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
product | (R)-6-(8-Amino-5,6,7,8-tetrahydroisoquinolin-4-yl)-1-methyl-3,4-dihydroquinolin-2(1H)-one | N[C@@H]1CCCC=2C(=CN=CC12)C=1C=C2CCC(N(C2=CC1)C)=O | C19H21N3O
